US07414142B2
To a stirred solution of 4-bromobenzaldehyde (3.0 g, 16.2 mmol) in ethanol (100 mL) and water (25 mL) was added sodium acetate (1.7 g, 21.0 mmol) and hydroxylamine hydrochloride (1.4 g, 19.5 mmol). The resulting mixture was heated to reflux for 2 hours. The solution was allowed to cool to room temperature, concentrated, and filtered to give 4-bromobenzaldehyde oxime (3.02 g, 93%). 4-Bromobenzaldehyde oxime (0.25 g, 1.25 mmol) was added to a stirred solution of 3-cyanophenyl boronic acid (0.28 g, 1.87 mmol) in glyme (13 mL). Sodium carbonate (0.39 g, 3.75 mmol) in water (2 mL) and tetrakis(triphenylphosphine) palladium (0) (0.07 g, 0.06 mmol) was added and the resulting solution was heated to reflux for 3 hours. The solution was cooled to room temperature and partitioned between a saturated ammonium chloride solution (100 mL) and ethyl acetate (150 mL). The organic layer was separated, dried over magnesium sulfate, filtered, and concentrated. The residue was purified on a silica gel column (20% ethyl acetate in hexane) and triturated with ether to give 4′-[(E)-(hydroxyimino)methyl]-1,1′-biphenyl-3-carbonitrile as a white solid (0.17 g, 61%). MS m/z 223; HRMS: calcd for C14H10N2O+H+, 223.08659; found (ESI, [M+H]+), 223.087; Anal. Calcd for C14H10N2O: C, 75.66; H, 4.54; N, 12.60. Found: C, 75.49; H, 4.98; N, 12.51.

reactant | 4-Bromobenzaldehyde oxime | 1.25 mmol, 0.25 g | BrC1=CC=C(C=NO)C=C1 | C7H6BrNO
reactant | 3-cyanophenyl boronic acid | 1.87 mmol, 0.28 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Sodium carbonate | 3.75 mmol, 0.39 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | glyme | 13 mL | C(OC)COC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.06 mmol, 0.07 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-[(E)-(hydroxyimino)methyl]-1,1′-biphenyl-3-carbonitrile | 0.17 g, 61% | O\N=C\C1=CC=C(C=C1)C1=CC(=CC=C1)C#N | C14H10N2O
